US06437184B1
First, 0.45 g of 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetone oxime, 0.12 g of triethylamine, and 10 ml of tetrahydrofuran were placed in a reaction vessel, to which 0.25 g of 4-trifluoromethylbenzoyl chloride was slowly added dropwise with stirring at room temperature. After completion of the addition, the reaction mixture was further stirred at room temperature for 30 minutes, poured into diluted hydrochloric acid, and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over anhydrous magnesium sulfate, and concentrated to give a crude product. This crude product was subjected to silica gel chromatography, which afforded 0.59 g (yield, 96%) of 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetone O-(4-trifluoromethylbenzoyl)oxime, nD25.6 1.5300.

reactant | 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetone oxime | 0.45 g | ClC1=C(OCCCCCOCC(C)=NO)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C17H21Cl4NO4
reactant | triethylamine | 0.12 g | C(C)N(CC)CC | C6H15N
reactant | 4-trifluoromethylbenzoyl chloride | 0.25 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetone O-(4-trifluoromethylbenzoyl)oxime | 0.59 g, 96% | FC(C1=CC=C(C(=O)ON=C(C)COCCCCCOC2=C(C=C(C=C2Cl)OCC=C(Cl)Cl)Cl)C=C1)(F)F | C25H24Cl4F3NO5
